US08957203B2
Preparation of 5-chloro-1-fluoro-3-isopropoxyisoquinoline
To a solution of 1,5-dichloro-3-isopropoxyisoquinoline (598 mg, 2.335 mmol) in DMSO (5 mL) was added CsF (390 mg, 2.57 mmol) and heated to 140° C. for 2 hrs. LC/MS showed the desired product. The reaction was diluted with ethyl acteate and washed with water, and brine. The organic phase was collected, dried over MgSO4, and concentrated under vacuum to give the crude product as a reddish brown solid. Crude material purified via silica gel chromatography (90 g column; 0-40% EtOAc:Hex) to get the product 5-chloro-1-fluoro-3-isopropoxyisoquinoline (520 mg, 93% yield) as a yellow solid. MS: MS m/z 240.15(M++1).

reactant | 1,5-dichloro-3-isopropoxyisoquinoline | 2.335 mmol, 598 mg | ClC1=NC(=CC2=C(C=CC=C12)Cl)OC(C)C | C12H11Cl2NO
reactant | CsF | 2.57 mmol, 390 mg | [F-].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 5-chloro-1-fluoro-3-isopropoxyisoquinoline | ClC1=C2C=C(N=C(C2=CC=C1)F)OC(C)C | C12H11ClFNO
